US08685977B2
4-(3,4-Dichlorophenoxy)-3-ethylbenzoic acid
3-Bromo-4-(3,4-dichlorophenoxy)benzoic acid (Preparation 8, 240 mg, 0.663 mmol) was dissolved in anhydrous tetrahydrofuran (3 mL) and cooled to 0° C. Bis(tributylphosphine)palladium (0) (33.7 mg, 0.07 mmol) was added followed by the slow addition of a 1M solution of diethyl zinc in hexane (3.32 mL, 3.32 mmol). The reaction mixture was stirred overnight under an atmosphere of nitrogen. The reaction mixture was then quenched with a 1M aqueous solution of hydrogen chloride and extracted with ethyl acetate. The combined organic phase was concentrated in vacuo and the resulting residue then purified by reverse phase column chromatography (Trilution method) to afford the title compound as a white solid (75 mg, 36%).

reactant | 3-Bromo-4-(3,4-dichlorophenoxy)benzoic acid | 0.663 mmol, 240 mg | BrC=1C=C(C(=O)O)C=CC1OC1=CC(=C(C=C1)Cl)Cl | C13H7BrCl2O3
reactant | diethyl zinc | C(C)[Zn]CC
reactant | hexane | 3.32 mmol, 3.32 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-(3,4-Dichlorophenoxy)-3-ethylbenzoic acid | 75 mg, 36% | ClC=1C=C(OC2=C(C=C(C(=O)O)C=C2)CC)C=CC1Cl | C15H12Cl2O3
